US06235731B1
1) Synthesis of N-(3-phenylpropan-1-yl)trifluoroacetamide
To a solution of 9.37 g (69.3 mM) of 3-phenylpropylamine and 14 ml (100.4 mM) of triethylamine in acetonitrile (70 ml) was added 16.4 ml (122.7 mM) of ethyl trifluoroacetate at room temperature and the mixture was stirred at the prevailing temperature for 2 hours. The solvent was then distilled off and the residue was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. The organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure to provide the title compound.

reactant | 3-phenylpropylamine | 69.3 mM, 9.37 g | C1(=CC=CC=C1)CCCN | C9H13N
reactant | triethylamine | 100.4 mM, 14 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 122.7 mM, 16.4 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | N-(3-phenylpropan-1-yl)trifluoroacetamide | C1(=CC=CC=C1)CCCNC(C(F)(F)F)=O | C11H12F3NO
